US06358971B1
2,3,4,5,6-Pentafluoromandelic acid
The 2,3,4,5,6-pentafluorobenzaldehyde (49.4 g, 252 mmol) was converted to product in a manner substantially analogous to Preparation 59 to yield 52.3 g. (86.0). EA, MS(FD).

reactant | 2,3,4,5,6-pentafluorobenzaldehyde | 252 mmol, 49.4 g | FC1=C(C=O)C(=C(C(=C1F)F)F)F | C7HF5O
reactant | EA | CC(OCC)=O | C4H8O2
product | 2,3,4,5,6-Pentafluoromandelic acid | FC1=C(C(C(=O)O)O)C(=C(C(=C1F)F)F)F | C8H3F5O3
